US06518264B2
The operation is carried out under the conditions described in Example 124 starting with 110 mg of activated 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)benzoic acid on TFP resin (121 μM), 0.026 cm3 of triethylamine and 39 mg of 4-aminomethylcyclohexanecarboxylic acid methyl ester hydrochloride. 47 mg of 4-{[3-({1-[bis-(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)benzoylamino]methyl}cyclohexanecarboxylic acid methyl ester are thus obtained in the form of a pale yellow paste [1H NMR spectrum (400 MHz, (CD3)2SO-d6, δ in ppm): from 0.90 to 1.05 (mt, 2H), from 1.20 to 1.40 (mt, 2H), 1.52 (mt, 1H), from 1.70 to 2.00 (mt, 4H), 2.27 (mt, 1H), 2.98 (s, 3H), 3.12 (t, J=6.5 Hz, 2H), 3.60 (s, 3H), 3.80 (mt, 2H), 4.23 (mt, 2H), 4.79 (s, 1H), 7.36 (d, J=8 Hz, 4H), 7.46 (d, J=8 Hz, 4H), from 7.45 to 7.60 (mt, 2H), 7.83 (broad s, 1H), 7.87 (broad d, J=8 Hz, 1H), 8.50 (t, J=6 Hz, 1H)].

reactant | 3-({1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)benzoic acid | 110 mg | ClC1=CC=C(C=C1)C(N1CC(C1)=CS(=O)(=O)CC=1C=C(C(=O)O)C=CC1)C1=CC=C(C=C1)Cl | C25H21Cl2NO4S
reactant | 4-aminomethylcyclohexanecarboxylic acid methyl ester hydrochloride | 39 mg | Cl.COC(=O)C1CCC(CC1)CN
solvent | triethylamine | 0.026 cm3 | C(C)N(CC)CC | C6H15N
product | 4-{[3-({1-[bis-(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)benzoylamino]methyl}cyclohexanecarboxylic acid methyl ester | 47 mg | COC(=O)C1CCC(CC1)CNC(C1=CC(=CC=C1)CS(=O)(=O)C=C1CN(C1)C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)=O | C34H36Cl2N2O5S
